US06919355B2
e) (4-Benzylpiperidine-1-yl)-(6-hydroxy-1H-benzoimidazol-2-yl)-methanone (45 70001103)
A mixture of 3.0 g (16.75 mmol) of 6-hydroxi-1H-benzoimidazol-2-carboxilic acid, 2.4 ml (17.2 mmol) of triethylamin, 3.0 g (17.1 mmol) of 4-benzyl-piperidine, 7.0 g (18.5 mmol) of HBTU and 100 ml of dimethylformamide is stirred at room temperature for 16 h. The reaction mixture is concentrated and the residue is purified by column chromatography using Kieselgel 60 as adsorbent (Merck) and toluene:methanol=4:1 as eluent, then the product is recrystallized from toluene to yield 3.58 g (63.5%) of the title compound. Mp.: 186° C. (toluene).

reactant | 6-hydroxi-1H-benzoimidazol-2-carboxilic acid | 16.75 mmol, 3.0 g | OC=1C=CC2=C(NC(=N2)C(=O)O)C1 | C8H6N2O3
reactant | triethylamin | 17.2 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzyl-piperidine | 17.1 mmol, 3.0 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | HBTU | 18.5 mmol, 7.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (4-Benzylpiperidine-1-yl)-(6-hydroxy-1H-benzoimidazol-2-yl)-methanone | 3.58 g, 63.5% | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C1=NC2=C(N1)C=C(C=C2)O | C20H21N3O2
